US05281593
i) 2-Benzhydryloxy nitrobenzene
2-Nitrophenol (11.0 g, 79 mmole), anhydrous potassium carbonate (17.6 g, 127.4 mmole) and benzhydryl bromide (19.6 g, 79 mmol) in acetone (220 ml) were refluxed under nitrogen for 5 hours. The mixture was cooled, filtered and evaporated in vacuo. The residue was triturated with diethyl ether, filtered and evaporated. Trituration with 60°-80° C. petroleum ether yielded a brown solid.

reactant | 2-Nitrophenol | 79 mmole, 11.0 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | potassium carbonate | 127.4 mmole, 17.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzhydryl bromide | 79 mmol, 19.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | acetone | 220 ml | CC(=O)C | C3H6O
product | 2-Benzhydryloxy nitrobenzene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C19H15NO3
